### PR TITLE
Add properties of <, ≤, ⊔ and ⊓ operators in Data.Integer

### PR DESCRIPTION
**Pull request by uzytkownik**

### CODE REVIEW

File: src/Data/Integer/Properties.agda [hunk 1]
```diff
@@ -1735,28 +2079,242 @@ m≤m⊔n (+ m)    (+ n)    = +≤+ (ℕₚ.m≤m⊔n m n)
 n≤m⊔n : ∀ m n → n ≤ m ⊔ n
 n≤m⊔n m n rewrite ⊔-comm m n = m≤m⊔n n m
 
+mono-≤-distrib-⊔ : ∀ f → f Preserves _≤_ ⟶ _≤_ → ∀ m n → f (m ⊔ n) ≡ f m ⊔ f n
+mono-≤-distrib-⊔ f f-mono-≤ m n with <-cmp m n
+... | tri< m<n _    _   = trans (cong f (m≤n⇒m⊔n≡n (<⇒≤ m<n))) (sym (m≤n⇒m⊔n≡n (f-mono-≤ (<⇒≤ m<n))))
```
Comment (MatthewDaggitt) [inline src/Data/Integer/Properties.agda:2084]: This `trans (cong f X) (sym Y)` pattern occurs a lot... I'll ponder on how we might reduce the redundancy.

For starters I think you could probably shorten the proofs by a line by pattern matching on `≤-total m n` for the proofs where you're working with `_≤_` rather than `_<_`

File: src/Data/Integer/Properties.agda [hunk 2]
```diff
@@ -23,16 +23,17 @@ open import Data.Nat as ℕ
...
-open import Function.Base using (_∘_; _$_)
+open import Data.Unit using (tt)
+open import Function.Base using (_∘_; _$_; id)
 open import Level using (0ℓ)
 open import Relation.Binary
 open import Relation.Binary.PropositionalEquality
 open import Relation.Nullary using (yes; no)
 import Relation.Nullary.Reflects as Reflects
-open import Relation.Nullary.Negation using (contradiction)
+open import Relation.Nullary.Negation using (contradiction; contraposition)
```
Comment (MatthewDaggitt) [inline src/Data/Integer/Properties.agda:36]: You're not actually using `contraposition`?

**Review by MatthewDaggitt — CHANGES_REQUESTED** [review]
Thanks, great additions! I've added a first round of review comments. Given the size, there'll probably be a second as well.

File: src/Data/Integer/Properties.agda [hunk 3]
```diff
@@ -220,6 +221,16 @@ drop‿-<- (-<- n<m) = n<m
 >⇒≰ : _>_ ⇒ _≰_
 >⇒≰ = <⇒≱
 
+≤∧≢⇒< : ∀ {x y} → x ≤ y → x ≢ y → x < y
+≤∧≢⇒< (-≤- m≤n) x≢y = -<- (ℕₚ.≤∧≢⇒< m≤n (x≢y ∘ cong -[1+_] ∘ sym))
+≤∧≢⇒< -≤+ x≢y = -<+
+≤∧≢⇒< (+≤+ n≤m) x≢y = +<+ (ℕₚ.≤∧≢⇒< n≤m (x≢y ∘ cong (+_)))
+
+≤∧≮⇒≡ : ∀ {x y} → x ≤ y → x ≮ y → x ≡ y
```
[the remark this answers is not in the document]
Comment (uzytkownik) [reply src/Data/Integer/Properties.agda:229]: @MatthewDaggitt I thought about it but it would require rearranging the file.

File: src/Data/Integer/Properties.agda [hunk 4]
```diff
@@ -1575,24 +1675,79 @@ neg-distribʳ-* x y = begin
 *-monoʳ-≤-pos x (+≤+ {m = suc _} {n = suc _} m≤n) =
   +≤+ ((ℕₚ.*-mono-≤ m≤n (ℕₚ.≤-refl {x = suc x})))
 
-*-monoʳ-≤-non-neg : ∀ n → (_* + n) Preserves _≤_ ⟶ _≤_
-*-monoʳ-≤-non-neg (suc n) = *-monoʳ-≤-pos n
-*-monoʳ-≤-non-neg zero {i} {j} i≤j
+*-monoʳ-≤-nonNeg : ∀ n → (_* + n) Preserves _≤_ ⟶ _≤_
```
Comment (MatthewDaggitt) [inline src/Data/Integer/Properties.agda:1678]: We're missing deprecation warnings for these names changes!

File: src/Data/Integer/Properties.agda [hunk 5]
```diff
@@ -374,6 +415,61 @@ neg-mono-<-> { +[1+ m ]} { +[1+ n ]} (+<+ m<n) = -<- (ℕₚ.≤-pred m<n)
...
+
+∣m-n∣≤∣m∣+∣n∣ : ∀ m n → ∣ m - n ∣ ℕ.≤ ∣ m ∣ ℕ.+ ∣ n ∣
+∣m-n∣≤∣m∣+∣n∣ m n = begin
+  ∣ m   -       n ∣        ≤⟨ ∣m+n∣≤∣m∣+∣n∣ m (- n) ⟩
+  ∣ m ∣ ℕ.+ ∣ - n ∣        ≡⟨ cong (∣ m ∣ ℕ.+_) (∣-n∣≡∣n∣ n) ⟩
+  ∣ m ∣ ℕ.+ ∣   n ∣        ∎
+  where
+    open ℕₚ.≤-Reasoning
+
+∣s◃m∣≡m : ∀ s m → ∣ s ◃ m ∣ ≡ m
```
[the remark this answers is not in the document]
Comment (MatthewDaggitt) [reply src/Data/Integer/Properties.agda:460]: Not addressed?

File: src/Data/Integer/Properties.agda [hunk 6]
```diff
@@ -1591,8 +1698,63 @@ neg-distribʳ-* x y = begin
 *-monoˡ-≤-pos : ∀ n → (+ suc n *_) Preserves _≤_ ⟶ _≤_
 *-monoˡ-≤-pos n = *-monoˡ-≤-non-neg (suc n)
 
+*-cancelˡ-≤-neg-≥ : ∀ m {n o} → -[1+ m ] * n ≤ -[1+ m ] * o → n ≥ o
```
[the remark this answers is not in the document]
Comment (MatthewDaggitt) [reply src/Data/Integer/Properties.agda:1694]: Not addressed?

File: src/Data/Integer/Properties.agda [hunk 7]
```diff
@@ -1575,24 +1675,79 @@ neg-distribʳ-* x y = begin
...
+  -[1+ m ] * o                       ≡⟨⟩
+  -(+ suc m) * o                     ≡˘⟨ neg-distribˡ-* +[1+ m ] o ⟩
+  -(+ suc m * o)                     ≡⟨ neg-distribʳ-* +[1+ m ] o ⟩
+  + suc m * - o                      ≤⟨ *-monoˡ-≤-pos m (neg-mono-≤ n≤o) ⟩
+  + suc m * - n                      ≡˘⟨ neg-distribʳ-* +[1+ m ] n ⟩
+  -(+ suc m * n)                     ≡⟨ neg-distribˡ-* +[1+ m ] n ⟩
+  -(+ suc m) * n                     ≡⟨⟩
+  -[1+ m ] * n                       ∎
+  where
+    open ≤-Reasoning
```
Comment (MatthewDaggitt) [inline src/Data/Integer/Properties.agda:1732]: Please put on the same line as the `where`, same for proofs below.

File: src/Data/Integer/Properties.agda [hunk 8]
```diff
@@ -1603,15 +1758,96 @@ neg-distribʳ-* x y = begin
 *-monoʳ-<-pos n {m} {o} rewrite *-comm m +[1+ n ] | *-comm o +[1+ n ]
   = *-monoˡ-<-pos n
 
-*-cancelˡ-<-non-neg : ∀ n {i j} → + n * i < + n * j → i < j
```
Comment (MatthewDaggitt) [inline src/Data/Integer/Properties.agda:1606]: Missing deprecation warning

File: src/Data/Integer/Properties.agda [hunk 9]
```diff
@@ -1674,6 +1910,103 @@ m⊓n≤n (+ m)    (+ n)    = +≤+ (ℕₚ.m⊓n≤n m n)
...
+  (n * + zero) ⊓ (o * + zero)        ∎
+  where
+    open ≤-Reasoning
+*-distribʳ-⊓-nonNeg (suc m) = mono-≤-distrib-⊓ (_* +[1+ m ]) (*-monoʳ-≤-pos m)
+
+------------------------------------------------------------------------
+-- Structures
+
+⊓-isMagma : IsMagma _⊓_
+⊓-isMagma = Magma.isMagma (magma _⊓_)
```
Comment (MatthewDaggitt) [inline src/Data/Integer/Properties.agda:1945]: You can just use `isMagma _⊓_` rather than `Magma.isMagma (magma _⊓_)` where `isMagma` is from the same file as `magma`

File: src/Data/Integer/Properties.agda [hunk 10]
```diff
@@ -2064,3 +2597,17 @@ Please use _<_ instead."
 "Warning: [1+m]*n≡n+m*n was deprecated in v1.2.
 Please use suc-* instead."
 #-}
+
+-- Version 1.5
+
+neg-mono-<-> = neg-mono-<
```
Comment (MatthewDaggitt) [inline src/Data/Integer/Properties.agda:2603]: Any deprecated names need to be added to the CHANGELOG as well.

https://github.com/agda/agda-stdlib/blob/master/CHANGELOG.md#deprecated-names

**Comment by MatthewDaggitt** [comment]
Also please could you avoid force pushing your changes in response to review comments! Please just use the ordinary push function. It makes it much easier to see what you've changed :smile:

**Comment by MatthewDaggitt** [comment]
Finally Travis is also failing, I think because of the old deprecated names are still being used in `Data.Rational.Unnormalised.Properties`?

**Comment by uzytkownik** [comment]
@MatthewDaggitt It's because of whitespace.
